Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],2.38620606108
[C:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.22868620342
[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.85883073624
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7].[O:8][H:9],6.26007945325
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])/[C:5]([C:6]([H:7])([H:8])[O:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15],0.000281958360574
[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10][O:11][O:12]1>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10][O:11][O:12],0.34606665406
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.824410905430001
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.83817499886
[C:1]=[C:2]1[C:3][C:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3][C:4]#[C:5])[C:9]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],-2.03940546891
[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.701824848419999
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.22375774623
[H:12].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-3.23010571435
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.1854170543
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.61165442581
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C@@:3]([H:4])([O:5])[C:10]([H:11])([H:12])[H:13],3.6132310892
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:4],3.73211800809
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2],5.35461387698
[C:4]([H:5])=[O:6].[O:1](/[C:2]([H:3])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[H:7]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.0346492187799998
[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-5.38641137594
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:9][H:10],8.73391165422
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.5425042809800007
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[H:9].[H:1][O:2],2.53295014645
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],5.66190795267
[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],0.548689132206
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2][C:3],1.59632770882
[C:1]#[C:2].[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-6.2714452319700005
[H:1][C:2]=[C:7]([H:8])[H:9].[H:3][C:4]([H:5])=[C:6][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.02601365743
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.31832143083
